US05167949
2-Methoxymethyl-3-methyl-4(3H)-pteridinone
A mixture of 7.8 g (0.0513 mole) of 3-amino-N-methyl-2-pyrazinecarboxamide [prepared according to W. F. Keir et al., J. Chem. Soc., Perkin Trans 1, 1978, 1002], 39.4 g (0.205 mole) of triethyl orthomethoxyacetate and 45.3 ml of acetic anhydride is refluxed under a nitrogen atmosphere for 3 days. The temperature of this reflux falls with the passage of time from 114° to 90° C. and then remains constant at the latter temperature. After cooling, the reaction mixture is concentrated to dryness under reduced pressure. The residue obtained is purified by chromatography on a silica column (eluant: chloroform/methanol, 95:5 and then 90:10), and is then recrystallized from ethyl acetate. Yld: 5.0 g (47%), m.p. 130.5°-132.5° C.

reactant | 3-amino-N-methyl-2-pyrazinecarboxamide | 0.0513 mole, 7.8 g | NC=1C(=NC=CN1)C(=O)NC | C6H8N4O
reactant | acetic anhydride | 45.3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Methoxymethyl-3-methyl-4(3H)-pteridinone | COCC1=NC2=NC=CN=C2C(N1C)=O | C9H10N4O2
